US07425568B2
d) 2-[2,5-Bis(benzyloxy)phenoxy]-1-phenylethanone
A mixture of 2,5-bis(benzyloxy)phenol (0.28 g), 2-bromoacetophenone (0.22 g), potassium hydrogen-carbonate (0.25 g) and 18-Crown-6 (3 mg) in acetonitrile (4.2 ml) was stirred at 22° C. for one week. The mixture was filtered and evaporated to dryness under reduced pressure. The residue was triturated with the mixture of ether (8.2 ml) and water (1.4 ml) at the ice bath temperature. The product was collected by filtration, washed with cold ether and dried under reduced pressure. Yield is 0.14 g. 1H NMR (DMSO-d6) δ=4.98 (s, 2H), 5.06 (s, 2H), 5.58 (s, 2H), 6.51 (dd, J=8.9, 2.3 Hz, 1H), 6.68 (d, J=2.3 Hz, 1H), 6.94 (d, J=8.9 Hz, 1H), 7.28-8.03 (m, 15H).

reactant | 2,5-bis(benzyloxy)phenol | 0.28 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)O | C20H18O3
reactant | 2-bromoacetophenone | 0.22 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | potassium hydrogen-carbonate | 0.25 g | C(O)([O-])=O.[K+]
reactant | 18-Crown-6 | 3 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 4.2 ml | C(C)#N | C2H3N
product | 2-[2,5-Bis(benzyloxy)phenoxy]-1-phenylethanone | C(C1=CC=CC=C1)OC1=C(OCC(=O)C2=CC=CC=C2)C=C(C=C1)OCC1=CC=CC=C1 | C28H24O4
